US07071201B2
(34-1) 2-Amino-6-ethoxycarbonylmethylbenzothiazole
Ethyl 4-aminophenylacetate (18 g) was dissolved in acetic acid (120 ml) and ethyl thiocyanate (29.3 g) was added thereto. Under ice cooling, bromine (6.2 ml) was added dropwise thereinto over 45 minutes while maintaining the reaction temperature at about 10° C. After the completion of the addition, the resultant mixture was stirred at room temperature for 1.5 hr and then at 80° C. for about 2 hr until the reaction was completed. Then the reaction solution was poured into ice water, basified with an 8 N aqueous solution of sodium hydroxide, extracted with chloroform, washed with water, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure to give the title compound (22.23 g) as orange crystals (yield: 93.66%).

reactant | Ethyl 4-aminophenylacetate | 18 g | NC1=CC=C(C=C1)CC(=O)OCC | C10H13NO2
reactant | ethyl thiocyanate | 29.3 g | C(C)SC#N | C3H5NS
reactant | bromine | 6.2 ml | BrBr | Br2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 120 ml | C(C)(=O)O | C2H4O2
product | 2-Amino-6-ethoxycarbonylmethylbenzothiazole | 22.23 g, yield: 93.66% | NC=1SC2=C(N1)C=CC(=C2)CC(=O)OCC | C11H12N2O2S
